* C:\Users\marco\Documents\Buck\Malha_Aberta_Fechada_Modulador\Buck_AFM_MG.asc
* Generated by LTspice 24.1.8 for Windows.
L1 N002 N003 390µ
C1 N003 0 10µ Rser=5m
R1 N003 0 6
V1 N001 0 24
D 0 N002 RBR10NS60A
V2 N020 0 PWL REPEAT FOREVER(0 0 {0.5/Fs} 15 {1/Fs} 0) ENDREPEAT
A1 N014 N020 0 0 0 0 pwm 0 SCHMITT Vhigh=15 Vlow=0 Ref=0
B1 N009 N002 V=V(pwm)
R2 N009 N008 10
R3 N003 N015 10k
R4 N015 0 2.6k
X§U1 N019 N015 +Vcc 0 N014 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
V4 N019 0 2.5
V5 +Vcc 0 15
R5 N015 N016 620
C2 N016 N014 100n
C3 N015 N014 10n
M1 N001 N008 N002 N002 BSC028N06LS3
L2 N005 N006 390µ
C4 N006 0 10µ Rser=5m
R7 N006 0 6r
V6 N004 0 24
D1 0 N005 RBR10NS60A
B2 N011 N005 V=V(duty)
R8 N011 N010 10
M2 N004 N010 N005 N005 BSC028N06LS3
V7 N018 0 PWL REPEAT FOREVER(0 0 {0.5/Fs} 15 {1/Fs} 0) ENDREPEAT
A2 N017 N018 0 0 0 0 duty 0 SCHMITT Vhigh=15 Vlow=0 Ref=0
V8 N017 0 {0.51*15}
R6 N007 N012 1.44
S1 0 N012 N013 0 SW
V3 N013 0 PULSE(0 1 4m 100n 100n 3m 6m)
.model D D
.lib C:\Users\marco\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\marco\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 0 10m 0 0.1u uic
.param Fs=50000 D=0.4
.model SW SW(Vt=0.5)
* BUCK MALHA ABERTA
* BUCK MALHA FECHADA
* confi. Modulação PwM
* control tipo 2
* simulação de carga
* modulação PWM
* confi. Modulação PwM
* confi. da carga
.lib UniversalOpAmp2.lib
.backanno
.end
